US06395713B1
Referring to FIG. 10, EEDQ (4.2 g, 17 mmol) was added to the solution of 2′-amino-2′-deoxy uridine (4 g, 16.45 mmol) and N-FMOC-beta-alanine (5.1 g, 16.45 mmol) in methanol and the reaction mixture was boiled for two hours. Subsequent flash chromatography on silica using a linear gradient of methanol (5% to 10% ) in dichloromethane afforded 6 g of 2′-Deoxy-2′-(N-Fmoc-beta-alanineamido) uridine (77%). 1H NMR (CDCl3-DMSO-d6) d 10.398 (s, 1H, N3-H), 6.98-7.63 (m, H6, Fmoc), 6.16 (t, 1H, NHFmoc), 5.73 (d, 1H, H1′, J1′,2′ 8.4), 5.34 (d, 1H, H5), 4.22 (m, 1H, 2′-H) 3.98 (dd 2H, CH2), 3.88 (m, 1H, 3′-H), 3.77 (br s, 1H, 4′-H), 3.43 (m, 2H, 5′-CH2), 3.1 (m, 2H, CH2NHFmoc), 2.07 (t, 2H, CH2CO).

reactant | EEDQ | 17 mmol, 4.2 g | CCOC1C=CC2=CC=CC=C2N1C(=O)OCC | C14H17NO3
reactant | 2′-amino-2′-deoxy uridine | 16.45 mmol, 4 g | N[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C9H13N3O5
reactant | N-FMOC-beta-alanine | 16.45 mmol, 5.1 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NCCC(=O)O | C18H17NO4
reactant | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2′-Deoxy-2′-(N-Fmoc-beta-alanineamido) uridine | 6 g, 77% | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N(C(CCN)=O)[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C27H28N4O8
